US07563910B2
Preparation of 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester
To a solution of 7.9 g of ethyl 2-oximinoacetoacetate in acetonitrile (100 ml) was added 10.5 g of 4-(trifluoromethoxy)benzylamine (as R4—CH2—NH2). The reaction mixture was then refluxed for 17 hours under argon atmosphere. After such time the reaction mixture was cooled down to 0° C., the solid was filtered off, washed with acetonitrile, and dried in vacuo to yield 11.2 g of a light yellow powder, MS (ISP) 315 (M+H)+.

reactant | ethyl 2-oximinoacetoacetate | 7.9 g | N(O)=C(C(=O)OCC)C(=O)C | C6H9NO4
reactant | 4-(trifluoromethoxy)benzylamine | 10.5 g | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester | 11.2 g | C(C)OC(=O)C=1N=C(NC1C)C1=CC=C(C=C1)OC(F)(F)F | C14H13F3N2O3
